US04073795
A 12-l. three-necked flask, equippedewith a thermometer, mechanical stirrer and a reflux condenser was charged under an atmosphere of nitrogen with 746 g (6.26 moles) of nitroacetic acid methylester, 1392 g (9.4 moles) of triethyl orthoformate and 1.92 l of acetic anhydride. The mixture was stirred and heated at reflux for 23 hours. The volatile components were distilled off first at atmospheric pressure (pot temperature up to 100° C, then at aspirator; vacuum and finally at 0.17 mmHg, (pot temperature up to 70°), leaving 926 g (84%) of crude alpha-nitro-beta-ethoxyacrylic acid methylester as an orange oil.

reactant | nitroacetic acid methylester | 6.26 moles, 746 g | COC(C[N+](=O)[O-])=O | C3H5NO4
reactant | triethyl orthoformate | 9.4 moles, 1392 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 1.92 l | C(C)(=O)OC(C)=O | C4H6O3
product | alpha-nitro-beta-ethoxyacrylic acid methylester | 926 g, 84% | COC(C(=COCC)[N+](=O)[O-])=O | C6H9NO5
